US03947408
Preparation of 7-Chloro-10-cyclobutylmethyl-1,2,3,5,10,11a- hexahydro-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11- one
If 7-chloro-1,2,3,5,10,11a-hexahydro-11H-pyrrolo- [2,1-c] [1,4]benzodiazepin-11-one is treated with cyclobutylmethylbromide by the procedure of Example 18, the above product is obtained.

reactant | 7-chloro-1,2,3,5,10,11a-hexahydro-11H-pyrrolo- [2,1-c] [1,4]benzodiazepin-11-one | ClC=1C=CC2=C(CN3C(C(N2)=O)CCC3)C1 | C12H13ClN2O
reactant | cyclobutylmethylbromide | C1(CCC1)CBr | C5H9Br
product | 7-Chloro-10-cyclobutylmethyl-1,2,3,5,10,11a- hexahydro-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11- one | ClC=1C=CC2=C(CN3C(C(N2CC2CCC2)=O)CCC3)C1 | C17H21ClN2O
